2135-01-16 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - admitted overnight, no complaints overnight
   - post-cath check performed at 2AM without hematoma or bruit
   - several brief runs of asymptomatic NSVT overnight
   Allergies:
   Ceftin (Oral) (Cefuroxime Axetil)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-16**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 57 (52 - 62) bpm
   BP: 105/47(63) {105/47(63) - 132/90(94)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  1,869 mL
                                                                  1,166 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,389 mL
                                                                    926 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    650 mL
   Urine:
                                                                    500 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,169 mL
                                                                    516 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: middle-aged man, lying on side in bed, nasal prongs in place,
   NAD
   HEENT: NC/AT, oropharynx clear
   Cardiac: Regular rate & rhythm, no murmurs, rubs, or gallops
   Pulmonary: Clear to auscultation anteriorly
   Abdominal: soft, NT/ND, no masses, normoactive bowel sounds
   Extremities: R groin site covered in CDI dressing, no e/o hematoma or
   bruit this AM, LE
s warm & well-perfused without edema, cyanosis, or
   clubbing
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   11.9 g/dL
   130 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   36.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2135-1-15**]  05:15 PM
                             [**2135-1-15**]  07:11 PM
                             [**2135-1-15**]  10:24 PM
                             [**2135-1-16**]  04:15 AM
   WBC
   11.1
   7.0
   4.8
   Hct
   36.7
   36.2
   36.6
   Plt
   233
   227
   186
   195
   Cr
   0.2
   0.8
   0.8
   TropT
   0.06
   0.48
   0.69
   Glucose
   108
   133
   130
   Other labs: PT / PTT / INR:12.6/30.2/1.1, CK / CKMB /
   Troponin-T:310/30/0.69, Differential-Neuts:88.3 %, Lymph:7.4 %,
   Mono:3.7 %, Eos:0.5 %, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 year old male with past medical history significant for known CAD
   but no MI who presents with anterior STEMI.
   1) STEMI/CAD: The patient had a large anterior STEMI but was
   revascularized with placement of a DES in the proximal LAD.  Since
   catheterization, the patient has been hemodynamically stable and chest
   pain free. CE
s elevated this AM, have not yet peaked.
   -Continue Epifibatide gtt for 18 hours (1pm on [**1-16**])
   -Continue Heparin gtt for 48 hours (5pm on [**1-17**])
   -Continue Aspirin, high dose atorvastatin
   -Start Metoprolol Tartrate 12.5mg PO BID
   -Echocardiogram to assess for wall motion abnormalities
   -Restart home Ramipril 2.5mg daily at discharge
   -Lipid panel in AM, acknowledging that it may be altered by stress
   reaction to MI
   -Continue patient
s home Niacin 500mg PO BID
   -Start Fish Oil 1000mg PO BID
   -Repeat EKG in AM to evaluate for any signs of recurrent ischemia
   - Inpatient stress test
   2) PUMP: Despite large anterior wall STEMI the patient has no
   signs/symptoms of left ventricular systolic dysfunction at this time.
   No hypotension or signs of cardiogenic shock.
   -Start low dose Metoprolol Tartrate 12.5mg PO BID
   -Echocardiogram to assess for wall motion abnormalities
   -Will start home Ramipril 2.5mg daily at discharge
   3) RHYTHM: Patient had 4-5 beats of NSVT at OSH in context of STEMI and
   several episodes overnight of brief runs of NSVT, likely reperfusion
   effect. Patient asymptomatic.
   -Monitor on telemetry
   -Metoprolol Tartrate 12.5mg PO BID
   -Replete electrolytes PRN, K>4, Mg>2
   -If sustained VT would start Lidocaine gtt for post MI arrythmia
   4) DYSAUTONOMIA/PARTIAL COMPLEX SEIZURES: Patient stable on home
   regimen of Phenobarbitol and Lamotrigine.
   - Continue Phenobarbitol and Lamotrigine at home dose
   5) BPH: Continue home Doxasosin 1mg qHS.
   6) HYPERTENSION: Currently normotensive.
   - Metoprolol Tartrate 12.5mg PO BID
   - Begin patient
s home Ramipril 2.5mg daily at time of discharge
   7) HYPERLIPIDEMIA: On Simvastatin at baseline, will use high dose
   atorvastatin in context of acute MI.
   -Continue Atorvastatin 80 mg PO daily
   -Continue patient
s home Niacin 500mg PO BID
   - Fish Oil 1000 mg PO BID
   -Lipid panel pending
   8) Likely metabolic acidosis: Resolved with repeat labs. Likely
   compensatory for respiratory alkalosis due to hyperventilation in
   context of chest pain and acute myocardial infarction.
   ICU Care
   Nutrition: cardiac/heart healthy diet
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2135-1-15**] 06:41 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: N/A
   VAP:  N/A
   Communication:  Patient & patient
s wife [**Name (NI) 117**]
   Code status: Full code
   Disposition: to [**Hospital Ward Name 408**] 3 today
   ------ Protected Section ------
   Attending
s Note: 10.00hrs
   Reviewed overnight course and examined Pt.
   Agree with Rx and plans.
   Would add low dose metoprolol
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2135-1-16**] 10:22 ------

2135-01-17 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2135-1-16**] 02:06 PM
 CHEST PAIN - At [**2135-1-16**] 02:10 PM
   EKG done, MD notified, 1 SL NTG given
   [**1-16**]
   - started on 2.5 ramipril, 12.5 [**Hospital1 **] metoprolol
   - hr fell to 40's on metoprolol
   - restarted on niacin, adding fish oil
   - ordered ETT for monday; will need stress test
   - had several episodes of chest pain after a stressful phone
   conversation; no real ekg changes; improved with nothing once, nitro
   another time. Went away after starting ativan. Later started low dose
   NTG drip, no pain for several hours.
   - 0457: [**2135-1-26**] chest pain, "burning" chest pain to left hand and
   tightness in chest/throat. EKG changes in V2-V4 (? elevations and
   repolar abnormalities). Persistent pain despite being maxed on ntg
   History obtained from Patient
   Allergies:
   History obtained from PatientCeftin (Oral) (Cefuroxime Axetil)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Nitroglycerin - 1.22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Flowsheet Data as of  [**2135-1-17**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 51 (48 - 78) bpm
   BP: 83/37(48) {83/28(48) - 126/445(86)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  2,609 mL
                                                                    205 mL
   PO:
                                                                  1,340 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,269 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                    700 mL
   Urine:
                                                                  4,500 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   11.8 g/dL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   15 mg/dL
   105 mEq/L
   137 mEq/L
   36.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2135-1-15**]  05:15 PM
                             [**2135-1-15**]  07:11 PM
                             [**2135-1-15**]  10:24 PM
                             [**2135-1-16**]  04:15 AM
                             [**2135-1-17**]  05:20 AM
   WBC
   11.1
   7.0
   4.8
   6.0
   Hct
   36.7
   36.2
   36.6
   36.5
   Plt
   233
   227
   186
   195
   184
   Cr
   0.2
   0.8
   0.8
   0.9
   TropT
   0.06
   0.48
   0.69
   Glucose
   108
   133
   130
   102
   Other labs: PT / PTT / INR:13.2/91.4/1.1, CK / CKMB /
   Troponin-T:151/17/0.69, Differential-Neuts:88.3 %, Lymph:7.4 %,
   Mono:3.7 %, Eos:0.5 %, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 year old male with past medical history significant for known CAD
   who presents with anterior STEMI.
   .
   #) STEMI/CAD: The patient had a large anterior STEMI but was
   revascularized with placement of a DES in the proximal LAD just at the
   bifurcation of the diag.  Since catheterization, the patient has been
   hemodynamically stable. He has had reccurrent episodes of chest pain
   without EKG changes largely in the context of emotional stress. He had
   one episode on [**1-17**] with soft changes - minor elevations,
   repolarization abnormality - in V2-V4 (the territory of his STEMI
   tombstone morphology)and chest pain free. CE falling as of [**1-16**], being
   rechecked today. Patient received 18 hours of Epifibatide and was kept
   on Heparin after his stenting, mainly because of recurrent chest pain.
   Lipid panel is optimal.
   - titrate ntg drip to off. Turn off heparin 24 hours after chest pain
   resolution
   -Continue Aspirin, high dose atorvastatin
   -Continue patient
s home Niacin 500mg PO BID
   - start fish oil
   - Started on Metoprolol Tartrate 12.5mg PO BID on [**1-16**], tolerated but
   lowered to 6.75 [**Hospital1 **] given brady to 40's and history of symptomatic
   brady on metoprolol. Will try 12.5 [**Hospital1 **] again
   -Echocardiogram to assess for wall motion abnormalities
   -Restart home Ramipril 2.5mg daily at discharge
   - Inpatient stress test
   .
   #) PUMP: Despite large anterior wall STEMI the patient has no
   signs/symptoms of left ventricular systolic dysfunction at this time.
   No hypotension or signs of cardiogenic shock.
   -Start low dose Metoprolol Tartrate 12.5mg PO BID
   -Echocardiogram to assess for wall motion abnormalities
   -Will start home Ramipril 2.5mg daily at discharge
   .
   #) RHYTHM: Patient had 4-5 beats of NSVT at OSH in context of STEMI and
   several episodes on [**12-10**] of brief runs of NSVT, likely reperfusion
   effect. Patient asymptomatic. No events overnight [**Date range (1) 10564**] aside from
   bradycardia to 42.
   -Monitor on telemetry
   -Metoprolol Tartrate, discussing dose on rounds
   -Replete electrolytes PRN, K>4, Mg>2
   -If sustained VT would start Lidocaine gtt for post MI arrythmia
   .
   #) DYSAUTONOMIA/PARTIAL COMPLEX SEIZURES: Patient stable on home
   regimen of Phenobarbitol and Lamotrigine.
   - Continue Phenobarbitol and Lamotrigine at home dose
   .
   #) BPH: Continue home Doxasosin 1mg qHS.
   .
   #) HYPERTENSION: Currently normotensive.
   - Metoprolol Tartrate, dose as above
   - Begin patient
s home Ramipril 2.5mg daily at time of discharge
   .
   #) HYPERLIPIDEMIA: On Simvastatin at baseline with optimal lipid panel.
   This does not necessarily reflect the stability of his CAD. Will use
   high dose atorvastatin in context of acute MI.
   -Continue Atorvastatin 80 mg PO daily
   -Continue patient
s home Niacin 500mg PO BID
   - Fish Oil 1000 mg PO BID
   .
   #) Likely metabolic acidosis: Resolved with repeat labs. Likely
   compensatory for respiratory alkalosis due to hyperventilation in
   context of chest pain and acute myocardial infarction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2135-1-15**] 06:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Attendings Note:08.30hrs
   Reviewed data and overnight events.
   Angina recurrence in absence of EKG changes disconcerting.
   [**Month (only) 11**] need relook cath if pain recurs.
   Examined Pt and agree with Rx plan.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2135-1-17**] 09:35 ------